US07851626B2
A solution of rac-4-[(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-1H-imidazol-2-yl]-3-ethoxy-benzonitrile (190 mg, 0.31 mmol) in dichloromethane was cooled to 0° C. and treated with phosgene (2.5 mL, 0.47 mmol, 1.9 M in toluene) and triethylamine (0.66 g, 0.65 mmol). After 1 h, the reaction was charged with the same quantities of phosgene and triethylamine. After an additional 1 h at 0° C., the reaction was worked up in ice water and dichloromethane. The organic layer was dried over anhydrous magnesium sulfate, filtered and evaporated to give an oil. It was purified by a short plug of silica gel (eluting with 20% ethyl acetate/hexane) to give rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-(4-cyano-2-ethoxy-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride.

reactant | rac-4-[(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-1H-imidazol-2-yl]-3-ethoxy-benzonitrile | 0.31 mmol, 190 mg | ClC1=CC=C(C=C1)[C@@]1(N=C(N[C@]1(C)C1=CC=C(C=C1)Cl)C1=C(C=C(C#N)C=C1)OCC)C | C26H23Cl2N3O
reactant | phosgene | 0.47 mmol, 1.9 M, 2.5 mL | C(=O)(Cl)Cl | CCl2O
reactant | triethylamine | 0.65 mmol, 0.66 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-(4-cyano-2-ethoxy-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride | ClC1=CC=C(C=C1)C1(N=C(N(C1(C)C1=CC=C(C=C1)Cl)C(=O)Cl)C1=C(C=C(C=C1)C#N)OCC)C | C27H22Cl3N3O2
